US07700591B2
A precooled (−78° C.) solution of oxalyl chloride (2.82 mL, 32.4 mmol) in 150 mL of DCM was treated dropwise with a solution of DMSO (4.60 mL, 64.8 mmol) in 25 mL of DCM. After an additional 5 min, a solution of 3-(1-hydroxyethyl)-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentanol (4.33 g, 10.8 mmol) in 25 mL of DCM was added dropwise. The reaction mixture was stirred for an additional 30 min, then neat triethylamine (18.1 mL, 130 mmol) was added dropwise. The mixture was stirred for an additional 10 min, then was warmed to rt and stirred for 1.5 h. The reaction mixture was poured into 1N HCl solution and the resulting mixture was extracted with DCM. The organic layer was washed again with 1N HCl solution, then with saturated NaHCO3 solution, and finally with brine. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 75% ethyl acetate/hexanes) gave 3-acetyl-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentanone as a mixture of two enantiomers. ESI-MS calc. for C17H16F3NO4: 355; Found: 356 (M+).

reactant | oxalyl chloride | 32.4 mmol, 2.82 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 64.8 mmol, 4.60 mL | CS(=O)C | C2H6OS
reactant | 3-(1-hydroxyethyl)-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentanol | 10.8 mmol, 4.33 g | OC(C)C1(CC(CC1)O)C(=O)N1COC2=C(C1)C=C(C=C2)C(F)(F)F | C17H20F3NO4
reactant | triethylamine | 130 mmol, 18.1 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-acetyl-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentanone | C(C)(=O)C1(CC(CC1)=O)C(=O)N1COC2=C(C1)C=C(C=C2)C(F)(F)F | C17H16F3NO4
